US08193202B2
A. Preparation of 1-tert-butyl 4-methyl 4-(2-methoxyethoxy)piperidine-1,4-dicarboxylate.
To a solution of 1-tert-butyl 4-methyl 4-hydroxypiperidine-1,4-dicarboxylate (360 mg, 1.39 mmol) in DMF (5.6 mL) was carefully added sodium hydride (60% dispersion in mineral oil, 84 mg, 2.08 mmol). The mixture was stirred for 30 minutes at room temperature. 1-Chloro-2-methoxyethane (0.38 mL, 4.17 mmol) was added, and the reaction was stirred at 60° C. for 72 hours. The reaction was quenched with 25 mL of water. The aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine, dried with MgSO4, and concentrated under vacuum. Silica gel chromatography (20-35% ethyl acetate:hexanes) provided the title compound and starting material as a mixture that was carried forward (150 mg, 1:2 product:starting material).

reactant | 1-tert-butyl 4-methyl 4-hydroxypiperidine-1,4-dicarboxylate | 1.39 mmol, 360 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H21NO5
reactant | sodium hydride | 2.08 mmol, 84 mg | [H-].[Na+]
reactant | 1-Chloro-2-methoxyethane | 4.17 mmol, 0.38 mL | ClCCOC | C3H7ClO
solvent | DMF | 5.6 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl 4-methyl 4-(2-methoxyethoxy)piperidine-1,4-dicarboxylate | COCCOC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H27NO6
